US06228880B1
2-Chloro-N-(1H-indol-4-yl)acetamide
To a suspension of 4-aminoindole (1.0 g, 7.57 mmol), triethylamine (1.07 mL, 7.57 mmol) in methylene chloride (50 mL) at 0° C., was added dropwise a solution of chloroacetyl chloride (0.615 mL, 7.57 mmol) in methylene chloride (5 mL). After 30 minutes, the solution was washed with water (2×100 mL) and dried over anhydrous magnesium sulfate. Purification by chromatography over silica gel (60 g, 40% ethyl acetate-hexane) and crystallization form hexane-ethyl acetate afforded the title compound as a white solid (1.17 g, 74.1%), mp 114-116° C.; MS EI m/e 208/210 (M+).

reactant | 4-aminoindole | 7.57 mmol, 1.0 g | NC1=C2C=CNC2=CC=C1 | C8H8N2
reactant | triethylamine | 7.57 mmol, 1.07 mL | C(C)N(CC)CC | C6H15N
reactant | chloroacetyl chloride | 7.57 mmol, 0.615 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-Chloro-N-(1H-indol-4-yl)acetamide | 1.17 g, 74.1% | ClCC(=O)NC1=C2C=CNC2=CC=C1 | C10H9ClN2O
